US20010025045A1
To a cooled, stirred solution of chlorosulfonic acid (9ml), 2-ethoxy-4-ethylbenzoic acid (1.55g, 7.99 mmol) was added slowly over 5 min, to limit the exotherm seen. The reaction mixture was then stirred at room temperature for 7h and poured carefully onto cracked ice. The pale yellow solid which precipitated was filtered and dried in vacuo to give 5-chlorosulfonyl-2-ethoxy-4-ethylbenzoic acid in 79% yield. This was used in a similar procedure to the method of Preparation 9 to give the title compound 52% yield.

reactant | chlorosulfonic acid | 9ml | ClS(=O)(=O)O | ClHO3S
reactant | 2-ethoxy-4-ethylbenzoic acid | 7.99 mmol, 1.55g | C(C)OC1=C(C(=O)O)C=CC(=C1)CC | C11H14O3
product | 5-chlorosulfonyl-2-ethoxy-4-ethylbenzoic acid | 79% yield | ClS(=O)(=O)C=1C(=CC(=C(C(=O)O)C1)OCC)CC | C11H13ClO5S
